US09388177B2
methyl 4-bromo-3-methoxybenzoate
To a stirred solution of methyl 4-bromo-3-hydroxybenzoate (10.0 g) in DMF (50 mL) was added potassium carbonate (17.9 g) and iodomethane (9.2 mg). The mixture was stirred at room temperature for 2 h. Ethyl acetate was added and the mixture was washed with water. The organic phase was washed with saturated sodium chloride solution, dried (sodium sulfate) and the solvent was removed in vacuum to give 10 g of the title compound, that was used without further purification.

reactant | methyl 4-bromo-3-hydroxybenzoate | 10.0 g | BrC1=C(C=C(C(=O)OC)C=C1)O | C8H7BrO3
reactant | potassium carbonate | 17.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | iodomethane | 9.2 mg | IC | CH3I
product | methyl 4-bromo-3-methoxybenzoate | 10 g | BrC1=C(C=C(C(=O)OC)C=C1)OC | C9H9BrO3
